US03990883
Preparation of 1-methyl-3-phenyl-5-(methylthioethyl)-hydantoin
A solution in acetone of 250 g (1 mole) of 3-phenyl-5-methylthioethyl hydantoin (compound no. 27) and 126 g (1 mole) of methyl sulphate is heated under reflux for 8 hours, accompanied by the addition with stirring of 138 g (1 mole) of potassium carbonate. The concentration of the acetone solution is between 0.5 and 1 mole per liter. On completion of the reaction, the potassium salts are separated by filtration and the acetone eliminated by evaporation. The residue crystallises on cooling. It can be recrystallised from methanol.

reactant | 3-phenyl-5-methylthioethyl hydantoin | 1 mole, 250 g | C1(=CC=CC=C1)N1C(NC(C1=O)CCSC)=O | C12H14N2O2S
reactant | methyl sulphate | 1 mole, 126 g | S(=O)(=O)(OC)[O-]
reactant | potassium carbonate | 1 mole, 138 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-methyl-3-phenyl-5-(methylthioethyl)-hydantoin | CN1C(=O)N(C(=O)C1CCSC)C1=CC=CC=C1 | C13H16N2O2S
